US07576222B2
Step 4: Synthesis of 2-(4-but-2-ynyloxy-benzenesulfonylamino)-3-(5-bromo-1H-indol-3-yl)-propionic Acid Ethyl Ester
Triethylamine (4.81 mL, 34.5 mmol) was added to a mixture of 2-amino-3-(5-bromo-1H-indol-3-yl)-propionic acid ethyl ester (4.00 g, 11.51 mmol) and 4-but-2-ynyloxy-benzenesulfonyl chloride (3.10 g, 12.66 mmol) in H2O-dioxane (40 mL/60 mL) at room temperature. The reaction mixture was stirred for 20 hours at room temperature. The mixture was concentrated and diluted with ethyl acetate. The organic solution was washed with H2O and brine, dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography (silica, 40% ethyl acetate in hexanes) to give 3.67 g of the title compound as a pale yellow solid. 1H NMR (DMSO-d6): 400 MHz δ 11.05 (s, 1H), 8.31 (d, J=8.8 Hz, 1H), 7.56 (d, J=8.8 Hz, 2H), 7.45 (d, J=1.6 Hz, 1H), 7.27 (d, J=8.4 Hz, 1H), 7.14 (m, 2H), 6.99 (d, J=8.8 Hz, 2H), 4.80 (q, J=2.4 Hz, 2H), 3.88 (q, J=7.6 Hz, 1H), 3.75 (q, J=7.2 Hz, 2H), 3.00 (dd J=14.4, 7.2 Hz, 1H), 2.88 (dd J=14.4, 7.6 Hz, 1H), 1.82 (t, J=2.4 Hz, 3H), 0.92 (t, J=7.2 Hz, 3H); HRMS: calcd for C23H24BrN2O5S (ESI+, Br79, [M+H]1+), 519.0584; found 519.0589.

reactant | Triethylamine | 34.5 mmol, 4.81 mL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-3-(5-bromo-1H-indol-3-yl)-propionic acid ethyl ester | 11.51 mmol, 4.00 g | C(C)OC(C(CC1=CNC2=CC=C(C=C12)Br)N)=O | C13H15BrN2O2
reactant | 4-but-2-ynyloxy-benzenesulfonyl chloride | 12.66 mmol, 3.10 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
solvent | H2O dioxane | 40 mL | O.O1CCOCC1
product | 2-(4-but-2-ynyloxy-benzenesulfonylamino)-3-(5-bromo-1H-indol-3-yl)-propionic Acid Ethyl Ester | 3.67 g | C(C)OC(C(CC1=CNC2=CC=C(C=C12)Br)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C23H23BrN2O5S
